US06677368B2
To a mixture of 4-bromoindole (2.1 g, 10 mmol), and 3-biphenylboronic acid (2.2 g, 10 mmol) in THF (34.5 mL) were added Palladium catalyst Pd(PPh3)4 (0.35 g, 0.3 mmol) and the freshly prepared sodium hydroxide solution (1.21 g, 30 mmol in 14 mL of water). The system was degassed and then charged with nitrogen. The degas procedure was repeated for three times. The mixture was stirred under nitrogen at 75° C. oil bath for overnight. TLC showed the completion of the coupling reaction. The mixture was cooled to room temperature, diluted with ethyl acetate, and separated from water layer. The ethyl acetate solution was washed with brine, and dried over Na2SO4. After filtration, the solvents were evaporated, and the crude product was purified on a silica gel column to give 4-biphenyl-3-yl-1H-indole.

reactant | 4-bromoindole | 10 mmol, 2.1 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | 3-biphenylboronic acid | 10 mmol, 2.2 g | C1(=CC(=CC=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | sodium hydroxide | 30 mmol, 14 mL, 1.21 g | [OH-].[Na+]
solvent | THF | 34.5 mL | C1CCOC1 | C4H8O
catalyst | Palladium | 0.3 mmol, 0.35 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-biphenyl-3-yl-1H-indole | C1(=CC(=CC=C1)C1=C2C=CNC2=CC=C1)C1=CC=CC=C1 | C20H15N
